US08076487B2
(Production Intermediate) Production of 1,2-dihydro-1-methyl-6-methylthio-2-oxopyridine-3-carboxylic acid (Production Intermediate IV-67)
Methyl 1,2-dihydro-1-methyl-6-methylthio-2-oxopyridine-3-carboxylate (2.1 g, 9.8 mmol) and lithium hydroxide monohydrate (0.50 g, 12 mmol) were dissolved in a mixed solvent of THF (30 mL) and water (2 mL), and stirred for a day at room temperature. The reaction mixture was concentrated under reduced pressure. To thus obtained residue, a mixed solution of aqueous saturated sodium bicarbonate and ethyl acetate was added, and then liquid separation and extraction were subjected. The obtained liquid layer was added with diluted hydrochloric acid to give a pH of 3 to 4, and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure, to obtain 1.6 g of a desired product (yield: 82%).

reactant | Methyl 1,2-dihydro-1-methyl-6-methylthio-2-oxopyridine-3-carboxylate | 9.8 mmol, 2.1 g | CN1C(C(=CC=C1SC)C(=O)OC)=O | C9H11NO3S
reactant | lithium hydroxide monohydrate | 12 mmol, 0.50 g | O.[OH-].[Li+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 1,2-dihydro-1-methyl-6-methylthio-2-oxopyridine-3-carboxylic acid | 1.6 g, yield: 82% | CN1C(C(=CC=C1SC)C(=O)O)=O | C8H9NO3S
